US09351965B2
To the suspension of zinc dust (10 mmol, 0.65 g) in a mixture of acetic acid (5 mL) and water (5 mL) was added a solution of (3-(2,5-difluorophenoxy)-1-nitrosopiperidin-3-yl)methanol in acetic acid. The reaction mixture was stirred at room temperature for an hour. The mixture was filtered. The filtrate was basified with sodium hydroxide aqueous solution. The organics were extracted with EtOAc. The product, (1-amino-3-(2,5-difluorophenoxy)piperidin-3-yl)methanol, was obtained after removal of the solvent.

reactant | (3-(2,5-difluorophenoxy)-1-nitrosopiperidin-3-yl)methanol | FC1=C(OC2(CN(CCC2)N=O)CO)C=C(C=C1)F | C12H14F2N2O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
catalyst | zinc | 10 mmol, 0.65 g | [Zn] | Zn
product | (1-amino-3-(2,5-difluorophenoxy)piperidin-3-yl)methanol | NN1CC(CCC1)(OC1=C(C=CC(=C1)F)F)CO | C12H16F2N2O2
